US07795236B2
tert-Butyl N-(2-{3-[N-ethyl-N-(2-hydroxyethyl)amino]-propoxy}biphenyl-4-ylmethyl)carbamate
The title compound was prepared in a similar manner to that described in Reference Example 139 using tert-butyl N-[2-(3-chloropropoxy)biphenyl-4-ylmethyl]carbamate instead of 3-(3-chloropropoxy)-4-phenylbenzonitrile and 2-ethylaminoethanol instead of pyrrolidine.

reactant | tert-butyl N-[2-(3-chloropropoxy)biphenyl-4-ylmethyl]carbamate | ClCCCOC1=C(C=CC(=C1)CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C21H26ClNO3
reactant | 2-ethylaminoethanol | C(C)NCCO | C4H11NO
product | tert-Butyl N-(2-{3-[N-ethyl-N-(2-hydroxyethyl)amino]-propoxy}biphenyl-4-ylmethyl)carbamate | C(C)N(CCO)CCCOC1=C(C=CC(=C1)CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C25H36N2O4
